* C:\Users\Student\Desktop\Helicopter-altitude-controller\ltspicemodel.asc
R1 N002 N004 27000
R2 N003 N002 1800
R3 N005 N003 1000
R4 N006 N005 2200
C1 N002 N004 100µ
C2 N003 N002 47µ
V1 N001 0 5
V2 N013 0 PWL(1 0 1.0001 5)
XU1 0 N002 N001 N010 N003 AD712
XU2 0 N005 N001 N010 N006 AD712
V3 0 N010 5
XU3 N009 N007 N001 N010 N004 AD712
R5 N007 0 1k
R6 N009 N013 1k
R7 0 N007 1k
R8 N004 N007 1k
XU4 N011 N008 N001 N010 Vout AD712
R9 N011 N006 1k
R10 N008 N012 1k
R11 0 N011 1k
R12 Vout N008 1k
V4 N012 0 2.5
.tran 0 10 0
.lib ADI1.lib
.backanno
.end
