* C:\Users\Matekoa\OneDrive - University of Cape Town\UCT 2021\2nd Semester\EEE3094S\Labs\Lab 2\Helicopter-altitude-controller\ltspicemodel.asc
R1 N002 N004 27000
R2 N003 N002 1800
R3 N005 N003 1000
R4 Vout N005 2200
C1 N002 N004 100µ
C2 N003 N002 47µ
V1 N001 0 5
V2 N009 0 PWL(1 0 1.0001 5)
XU1 0 N002 N001 N007 N003 AD712
XU2 0 N005 N001 N007 Vout AD712
V3 0 N007 5
XU3 N008 N006 N001 N007 N004 AD712
R5 N006 0 10000
R6 N008 N009 10000
R8 N004 N006 10000
R9 N008 0 1000
.tran 0 2 0
.lib ADI1.lib
.backanno
.end
